US08492378B2
5-(2,3-dihydro-1-benzofuran-5-yl)-1H-tetrazole
A mixture of 2,3-dihydro-1-benzofuran-5-carbonitrile (1.29 g, 8.89 mmol), sodium azide (1.16 g, 17.78 mmol), zinc bromide (1.00 g, 4.45 mmol), 2-propanol (15 mL) and water (30 mL) was stirred at 80° C. for 48 hr. The reaction mixture was basified with an aqueous sodium hydroxide solution, and washed with ethyl acetate. The aqueous layer was acidified with hydrochloric acid, and extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (1.10 g, yield 66%) as colorless crystals.

reactant | 2,3-dihydro-1-benzofuran-5-carbonitrile | 8.89 mmol, 1.29 g | O1CCC2=C1C=CC(=C2)C#N | C9H7NO
reactant | sodium azide | 17.78 mmol, 1.16 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-propanol | 15 mL | CC(C)O | C3H8O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc bromide | 4.45 mmol, 1.00 g | [Br-].[Zn+2].[Br-]
solvent | water | 30 mL | O | H2O
product | 5-(2,3-dihydro-1-benzofuran-5-yl)-1H-tetrazole | 1.10 g, yield 66% | O1CCC2=C1C=CC(=C2)C2=NN=NN2 | C9H8N4O
